US07569337B2
3-Benzothiazol-2-yl-7-piperazin-1-yl-chromen-2-one
890 mg (5 mmol) 3-Piperazin-1-yl-phenol are suspended in 100 mL EtOH and treated with 0.42 mL (1 eq.) 12N HCl at a temperature below 10° C. The suspension is stirred an hour and slowly evaporated. The remaining beige powder is dried under high vacuum, then taken up in 60 mL DMF. The solution is cooled to 5° C. under argon, 0.503 mL (1.1 eq.) POCl3 added dropwise and the reaction mixture stirred for an hour at room temperature, then 30 minutes at 80° C., and finally allowed to cool to room temperature, upon which 2 g (3 eq.) solid potassium carbonate is added. The suspension is stirred 30 minutes at room temperature then evaporated, and the residue resuspended and stirred in a 1:1 mixture of dichloromethane and isopropanol. The suspension is filtered, the filtrate evaporated and dried to yield 600 mg crude 2-hydroxy4-piperazin-1-yl-benzaldehyde. This material is taken up in 40 mL of a 1:1 mixture of benzene and acetonitrile, 2.5 mL (5 eq.) piperidine and 683 mg (0.66 eq.) benzothiazol-2-yl-acetic acid methyl ester are added under argon and the reaction mixture refluxed for an hour. The product is extracted with dichloromethane and brine at 0° C., the combined organic phases dried with sodium sulphate, filtered and evaporated, then triturated with diisopropylether to yield 800 mg desired product (crude).

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | piperidine | 2.5 mL, 5 eq. | N1CCCCC1 | C5H11N
reactant | benzothiazol-2-yl-acetic acid methyl ester | 683 mg, 0.66 eq. | COC(CC=1SC2=C(N1)C=CC=C2)=O | C10H9NO2S
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-Benzothiazol-2-yl-7-piperazin-1-yl-chromen-2-one | 800 mg | S1C(=NC2=C1C=CC=C2)C=2C(OC1=CC(=CC=C1C2)N2CCNCC2)=O | C20H17N3O2S
